US07399775B2
[6-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-3-yl]methylamine
Under argon atmosphere, 5-azidomethyl-2-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridine (77 mg, 0.177 mmol), palladium on carbon (14 mg), and ethyl acetate (2 ml) were added to ethanol (10 ml). The resulting mixture was stirred for 50 minutes under 1 atom hydrogen atmosphere. After filtration, the filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to chromatography on a silica gel column. A fraction obtained from the elution portion with dichloromethane:methanol=10:1 was concentrated under reduced pressure, whereby the title compound (28 mg, 0.0685 mmol, 39%) was obtained as a white powder.

reactant | 5-azidomethyl-2-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridine | 0.177 mmol, 77 mg | N(=[N+]=[N-])CC=1C=CC(=NC1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C19H13ClF2N4O2S
reactant | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 14 mg | [Pd] | Pd
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | [6-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-3-yl]methylamine | 0.0685 mmol, 28 mg, 39% | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=C(C=N1)CN)C1=C(C=CC(=C1)F)F | C19H15ClF2N2O2S
